US07982071B2
Reaction of 3-(2-ethylbutoxy)benzaldehyde with acetonitrile in the presence of LDA gave 3-(3-(2-ethylbutoxy)phenyl)-3-hydroxypropanenitrile. 1H NMR (400 MHz, DMSO-d6) δ 7.22 (t, J=7.2 Hz, 1H), 6.92-6.96 (m, 2H), 6.81-6.83 (m, 11H), 5.89 (brs, 1H), 4.83 (brs, 1H), 3.82 (d, J=6.4 Hz, 2H), 2.73-2.90 (m, 2H), 1.56-1.64 (m, 1H), 1.31-1.44 (m, 4H), 0.87 (t, J=7.6 Hz, 6H).

reactant | 3-(2-ethylbutoxy)benzaldehyde | C(C)C(COC=1C=C(C=O)C=CC1)CC | C13H18O2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(3-(2-ethylbutoxy)phenyl)-3-hydroxypropanenitrile | C(C)C(COC=1C=C(C=CC1)C(CC#N)O)CC | C15H21NO2
